US05594015
By a procedure similar to that of method B, a solution of 2-naphthol (5.0 g, 35 mmol ) and 5-bromo-2,4-thiazolidinedione (6.8 g, 35 mmol) in THF (200 mL) was treated with lithium bis(tri-methylsilyl)amide (76 mL, 76 mmol, 1.0M in THF) to give, after chromatography (acid-washed silica gel, chloroform/acetonitrile), 5-(2-Naphthalenyloxy)-2,4-thiazolidinedione (2.8 g, 31% yield): mp 221°-222° C. (acetone/ethyl acetate); 1H NMR (DMSO-d6, 400 MHz) δ6.52 (s, 1H, OCH), 7.1-8.0 (m, 6H, ArH), 10.57 (s, 1H, ArH).

reactant | 2-naphthol | 35 mmol, 5.0 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | 5-bromo-2,4-thiazolidinedione | 35 mmol, 6.8 g | BrC1C(NC(S1)=O)=O | C3H2BrNO2S
reactant | lithium bis(tri-methylsilyl)amide | 76 mmol, 1.0M, 76 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | chloroform acetonitrile | C(Cl)(Cl)Cl.C(C)#N
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 5-(2-Naphthalenyloxy)-2,4-thiazolidinedione | 2.8 g, 31% yield | C1=C(C=CC2=CC=CC=C12)OC1C(NC(S1)=O)=O | C13H9NO3S
